US04876249
Preparation of 4-ethyl-2-undecyl-2-oxazoline
25 g (137.9 mmoles) of undecyl cyanide was treated with 15.2 ml (165 mmoles) of DL-2-amino-1-butanol in presence of 919 mg (3.54 mmoles) of cadmium acetate dihydrate in 1-butanol as outlined under Example 1. 31.31g (89.6%) of product was obtained on distillation at 124°-125°C./1.2-1.4mmHg.

reactant | undecyl cyanide | 137.9 mmoles, 25 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | DL-2-amino-1-butanol | 165 mmoles, 15.2 ml | CCC(CO)N | C4H11NO
solvent | 1-butanol | C(CCC)O | C4H10O
catalyst | cadmium acetate dihydrate | 3.54 mmoles, 919 mg | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 4-ethyl-2-undecyl-2-oxazoline | 31.31g, 89.6% | C(C)C1N=C(OC1)CCCCCCCCCCC | C16H31NO
